US08008302B2
Step c) tert-Butyl 4-[5-(2-thienyl)-1,2,4-oxadiazol-3-yl]piperazine-1-carboxylate
To a cold (0° C.) solution of tert-butyl 4-[(hydroxyamino)(imino)methyl]piperazine-1-carboxylate (8 g, 32.7 mmol) in anhydrous DCM (150 mL) was added thiophene-2-carbonyl chloride (4.8 g, 32.7 mmol) followed by DIEA (7.2 mL, 39.2 mmol). The reaction mixture was stirred at RT for 12 hours and then filtered. The filtrate was evaporated and the residue was refluxed in pyridine (100 mL) for 3 hours. The solvent was removed under vacuum and the residue was dissolved in DCM. The organic layer was washed with a 10% aq. solution of sodium bicarbonate, water, brine and dried. The solvent was concentrated and the residue was purified by chromatography (Pet. Ether/EtOAc 7/3) to give 2.2 g (20%) of The title compound as a solid. TLC—Pet ether/EtOAc (9/1): Rf=0.75. HPLC purity>97%.

reactant | tert-butyl 4-[(hydroxyamino)(imino)methyl]piperazine-1-carboxylate | 32.7 mmol, 8 g | ONC(N1CCN(CC1)C(=O)OC(C)(C)C)=N | C10H20N4O3
reactant | thiophene-2-carbonyl chloride | 32.7 mmol, 4.8 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | DIEA | 39.2 mmol, 7.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-[5-(2-thienyl)-1,2,4-oxadiazol-3-yl]piperazine-1-carboxylate | 2.2 g, 20% | S1C(=CC=C1)C1=NC(=NO1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H20N4O3S
